US08044061B2
Preparation of 3-(3,4-Dimethoxyphenyl)propynoic acid (6-amino-1-ethyl-3-prop-2-ynyl-2,4-dioxo-1,2,3,4-tetrahydropyrimidin-5-yl) amide
A mixture of the 5,6-diamino-1-ethyl-3-propargyluracil (4.2 g, 20 mmol), 3,4-dimethoxyphenylacetylencarboxylic acid (4.2 g, 20 mmol) and EDC ((1-(3-dimethylaminopropyl)-3-ethyl-carbodiimid hydrochloride; 4.2 g, 22 mmol) in methanol (100 ml) was stirred at room temperature for 2 h. The colorless product was precipitated by adding water (ca. 150 ml), filtered under reduced pressure, washed thoroughly with ether (TLC-control indicated the purity of the product; eluent: dichloromethane/methanol 9:1) and dried at 60° C. Yield: 6 g (76%).

reactant | 5,6-diamino-1-ethyl-3-propargyluracil | 20 mmol, 4.2 g | NC=1C(N(C(N(C1N)CC)=O)CC#C)=O | C9H12N4O2
reactant | 3,4-dimethoxyphenylacetylencarboxylic acid | 20 mmol, 4.2 g | COC=1C=C(C=CC1OC)C#CC(=O)O | C11H10O4
reactant | EDC
reactant | 1-(3-dimethylaminopropyl)-3-ethyl-carbodiimid hydrochloride | Cl.CN(CCCN=C=NCC)C
solvent | methanol | 100 ml | CO | CH4O
product | 3-(3,4-Dimethoxyphenyl)propynoic acid (6-amino-1-ethyl-3-prop-2-ynyl-2,4-dioxo-1,2,3,4-tetrahydropyrimidin-5-yl) amide | NC1=C(C(N(C(N1CC)=O)CC#C)=O)NC(C#CC1=CC(=C(C=C1)OC)OC)=O | C20H20N4O5
